US06239142B1
N-(4-Chlorobenzyl)-7-ethyl-2-(3-hydroxy-1-propynyl)-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide
To a suspension of N-(4-chlorobenzyl)-7-ethyl-2-iodo-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide (Example No. 12) (0.267 g) in diethylamine (14 mL) is added copper iodide (0.032 g) and Pd(PPh3)2Cl2 (0.009 g) followed by addition of propargyl alcohol (39 μL). The reaction is stirred at rt for 18 h. The diethylamine is removed in vacuo, and the resulting residue is partitioned between H2O (25 mL) and CH2Cl2 (25 mL). The organic layer is removed, and the aqueous layer is extracted with CH2Cl2 (3×25 mL). The combined organic layers are dried with MgSO4, filtered, and concentrated in vacuo. The resulting orange solid is purified by column chromatography (CH2Cl2:CH3OH, 98:2). Fractions homogeneous by TLC are combined and concentrated in vacuo to yield 0.158 g (70%) of the title compound as a yellow, crystalline solid.

reactant | N-(4-chlorobenzyl)-7-ethyl-2-iodo-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)CC)SC(=C3)I)=O)C=C1 | C17H14ClIN2O2S
reactant | propargyl alcohol | 39 μL | C(C#C)O | C3H4O
solvent | diethylamine | 14 mL | C(C)NCC | C4H11N
catalyst | copper iodide | 0.032 g | [Cu](I)I
catalyst | Pd(PPh3)2Cl2 | 0.009 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-(4-Chlorobenzyl)-7-ethyl-2-(3-hydroxy-1-propynyl)-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide | 0.158 g, 70% | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)CC)SC(=C3)C#CCO)=O)C=C1 | C20H17ClN2O3S
